US06288041B1
Synthetic Example BB21: Synthesis of 4-tert-butyloxycarbonylaminosalicylic acid
4-Aminosalicylic acid (5.00 g, 32.6 mmol) was suspended in dioxane (35 ml) and water (35 ml), and the suspension was added with aqueous sodium hydroxide (2N) and a solution of di-tert-butyl carbonate dicarbonate (8.5 g, 39.0 mmol) in dioxane (35 ml), and then the mixture was stirred at room temperature for seven days. After the dioxane of the reaction mixture was evaporated, the residue was made weakly acidic (pH˜4) with 1N hydrochloric acid, and then extracted with ether. The extract was dried over anhydrous sodium sulfate, and the solvent was evaporated. The resulting syrup was solidified with hexane and ethyl acetate to obtain the title compound (4.58 g, yield; 55%).

reactant | 4-Aminosalicylic acid | 32.6 mmol, 5.00 g | NC=1C=C(C(C(=O)O)=CC1)O | C7H7NO3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | di-tert-butyl carbonate dicarbonate | 39.0 mmol, 8.5 g | C(=O)(O)OC(=O)O.C(OC(C)(C)C)(OC(C)(C)C)=O
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
solvent | water | 35 ml | O | H2O
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
product | 4-tert-butyloxycarbonylaminosalicylic acid | 4.58 g, yield; 55% | C(C)(C)(C)OC(=O)NC=1C=C(C(C(=O)O)=CC1)O | C12H15NO5
